US09303033B2
A solution of (3,4-dimethylphenyl)methanamine in NMP (106 μl, 0.4 M, 1.5 eq, 0.042 mmol) was transferred in a glass reaction vial. A solution of a (1:1) mixture of (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione and (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione in NMP (100 μl, 0.282M, 1.0 eq, 0.0282 mmol) was added. The mixture was heated at 80° C. for 5 hours. NMP was added (0.7 ml) and the solution subjected to preparative HPLC purification. Genevac evaporation provided (Z)-5-((4-(cyclopropylamino)-2-(3,4-dimethylbenzylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione as a solid (5.8 mg). LCMS (ES): >85% pure, m/z 419 [M+H]+.

reactant | (3,4-dimethylphenyl)methanamine | CC=1C=C(C=CC1C)CN | C9H13N
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)(=O)C | C13H13N7O4S
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)C | C13H13N7O3S
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.0282 mmol, 0.282M, 100 μl, 1.0 eq | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.042 mmol, 0.4 M, 106 μl, 1.5 eq | CN1CCCC1=O | C5H9NO
product | (Z)-5-((4-(cyclopropylamino)-2-(3,4-dimethylbenzylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 5.8 mg | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)NCC2=CC(=C(C=C2)C)C | C21H22N8O2
